US05254595
Following the procedure described in Example 27, but starting from 2,3-dimethyl-4-(2,3-epoxypropoxy)indole (10 g) and 2-aminotetralin (6.9 g) in ethanol (100 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2,3-dimethylindol-4-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 14 wherein Z is methyl, and the chain is attached to position 2 of the tetralin moiety).

reactant | 2,3-dimethyl-4-(2,3-epoxypropoxy)indole | 10 g | CC=1NC2=CC=CC(=C2C1C)OCC1CO1 | C13H15NO2
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2,3-dimethylindol-4-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2C(=C(NC2=CC=C1)C)C)O
product | 2-aminotetralin | 6.9 g | NC1CC2=CC=CC=C2CC1 | C10H13N
